US06114527
Process for the Preparation of 5-cyano-4-pyrimidinethiol
At room temperature, 2-cyanothioacetamide (4.5 g, 0.045 mol) was added to an initial charge of sodium methoxide (24.3 g, 0.1.35 mol, 29% in methanol). 100 ml of dimethoxyethane were added. The Gold's reagent prepared as in Example 1 (8.1 g, 0.050 mol) was then added, and the reaction mixture was stirred at room temperature for about 5 hours. The mixture was then heated briefly to 50° C. and left to stand at room temperature overnight. The dimethoxyethane was stripped off on a rotary evaporator, 20 ml of water were added, and then the reaction mixture was cooled in an ice bath. 30 ml of 2N eq. HCl solution were used to adjust the pH to 5.5. After renewed cooling, the solid which had precipitated out was filtered off, then washed with a small amount of cold water and dried at 40° C. in a vacuum drying cabinet to give the title product in a yield of 5.57 g (90.4%) in the form of an orange solid.

reactant | 2-cyanothioacetamide | 0.045 mol, 4.5 g | C(#N)CC(=S)N | C3H4N2S
reactant | sodium methoxide | 24.3 g | C[O-].[Na+]
reactant | Gold's reagent | CN(C)C=NC=[N+](C)C.[Cl-]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | 5-cyano-4-pyrimidinethiol | C(#N)C=1C(=NC=NC1)S | C5H3N3S
